Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of HTN who
presents with shortness of breath and fever. She has had 
subacute
dyspnea and non productive cough for two weeks while she was on
vacation in ___. She went to urgent care down there, where
she was found to have pneumonia and incidental cardiomegaly on
CXR. She was sent home with a course of Augmentin. She then
re-presented to ___ ED a week ago, where a CTA 
identified
lower lobe infiltrates, a small left pleural effusion, and a
moderate-sized pericardial effusion. She was prescribed a course
of levofloxacin, which also didn't improve her symptoms. On the
day of presentation, she was febrile to 101 and had dyspnea at
rest with movement;  previously it had been with exertion. She
has some chest heaviness but no pleuritic chest pain. She has 
not
noted lower extremity edema, headache, N/V. In terms of sick
contacts, her husband had ___ throat one month ago but
otherwise no recent travel outside the country.

Of note, she describes having nighttime arthalgias after her 
work
day, particularly of her ankles and knees. She went to see her
PCP who got ___ in ___, notable for Hgb 11.5, ferritin
209, ALT 63, Alk Phos 132, ESR 57, ___ 1:1280, negative RF and
CCP. 

In the ED,

Initial vital signs: T 97.6, HR 111, BP 112/77, RR 16, O2 sat
100% RA 

Exam notable for: RRR no murmurs, CTAB. Pulsus of 12 mmHg.

EKG: NSR, T wave inversions in lateral leads, no clear PR
depression.

Labs were notable for: CBC - WBC 5, Hgb 10.7, Plt 311; coags -
INR 1.3; BMP - Na 131, Cr 0.9, negative trop, BNP; flu negative,
lactate 1.3.

Studies performed include: CXR - Moderate to the severe
cardiomegaly. Linear densities in the lower lungs likely
atelectasis, difficult to entirely exclude pneumonia. 
POC US - mild to moderate pericardial effusion w/o tamponade
physiology.

___ was given: Acetaminophen, amlodipine, colchicine,
ibuprofen.

Consults: Cardiology - TTE in AM, no evidence of tamponade.

Vitals on transfer: T 98.6, HR 79, BP 107/68, RR 18, 96% RA 
 
Upon arrival to the floor, the ___ complains of difficulty
taking deep breaths but has no chest pain. She denies current
joint pain or stiffness, abdominal pain, nausea/vomiting, loose
stools. She also denies prior rashes.  

 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
Parents are healthy, no autoimmune disease, no cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 98.0, BP 107/69, HR 66, RR 18, O2 sat 93 % RA. 
GEN: In NAD.
HEENT: PERRL, moist mucous membranes, oropharynx clear without
exudates.
NECK: No JVD, no cervical lymphadenopathy.
CV: RRR, no murmurs, no audible friction rub.
PULM: Bibasilar crackles, otherwise clear. 
ABD: Soft, non tender, non distended.
EXTREM: No ___ edema. Pulses +2 ___P, ___ bilaterally. No
joint tenderness in PIP, DIP, wrists, ankles, knees bilaterally.
SKIN: No visible rashes.
NEURO: A&Ox3, CN II-XII intact, motor and sensation grossly
intact.

DISCHARGE PHYSICAL EXAM
VITALS: 98.0 PO 135 / 87 L Sitting 81 17 98 Ra 
GEN: In NAD.
HEENT: PERRL, moist mucous membranes, oropharynx clear without
exudates.
NECK: No JVD, no cervical lymphadenopathy.
CV: RRR, no murmurs, no audible friction rub.
PULM: Decreased breath sounds at left base 
ABD: Soft, non tender, non distended.
EXTREM: No ___ edema. Pulses +2 ___P, ___ bilaterally. No
joint tenderness in PIP, DIP, wrists, ankles, knees bilaterally.
SKIN: No visible rashes.
NEURO: A&Ox3, CN II-XII intact, motor and sensation grossly
intact.
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:06PM BLOOD WBC-5.0 RBC-3.77* Hgb-10.7* Hct-33.2* 
MCV-88 MCH-28.4 MCHC-32.2 RDW-13.8 RDWSD-44.6 Plt ___
___ 06:06PM BLOOD Neuts-73.4* Lymphs-13.7* Monos-9.9 
Eos-2.0 Baso-0.4 Im ___ AbsNeut-3.63 AbsLymp-0.68* 
AbsMono-0.49 AbsEos-0.10 AbsBaso-0.02
___ 06:06PM BLOOD ___ PTT-30.5 ___
___ 06:06PM BLOOD Glucose-118* UreaN-17 Creat-0.9 Na-131* 
K-4.1 Cl-94* HCO3-22 AnGap-15
___ 07:40AM BLOOD ALT-140* AST-61* LD(LDH)-184 AlkPhos-192* 
TotBili-0.3
___ 07:40AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.2
___ 08:07PM BLOOD Lactate-1.3
___ 06:06PM BLOOD CYCLIC CITRULLINATED PEPTIDE (CCP) 
ANTIBODY, IGG-PND

RHEUM WORKUP
============
___ 07:40AM BLOOD TSH-3.4
___ 07:30AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS*
___ 07:30AM BLOOD CRP-57.2*
___ 07:40AM BLOOD ___
___ 06:06PM BLOOD RheuFac-11 dsDNA-NEGATIVE
___ 07:40AM BLOOD C3-112 C4-21
___ 07:40AM BLOOD HIV Ab-NEG
___ 07:30AM BLOOD HCV Ab-NEG
___ 07:30AM BLOOD ZINC (SPIN NVY/EDTA)-PND
___ 07:40AM BLOOD ADENOVIRUS PCR-PND
___ 06:06PM BLOOD CYCLIC CITRULLINATED PEPTIDE (CCP) 
ANTIBODY, IGG-PND

DISCHARGE LABS
==============
___ 07:30AM BLOOD WBC-4.1 RBC-3.68* Hgb-10.6* Hct-33.1* 
MCV-90 MCH-28.8 MCHC-32.0 RDW-14.0 RDWSD-46.2 Plt ___
___ 07:30AM BLOOD Glucose-118* UreaN-10 Creat-0.7 Na-139 
K-4.3 Cl-104 HCO3-24 AnGap-11
___ 07:30AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.___ w/ HTN and recently diagnosed pericardial effusion c/w
pericarditis who presented with dyspnea and report of fever and
was found to have improved pericardial effusion. 

ACUTE ISSUES
=============
#Pericardial effusion
Presented to ___ ED a week ago, where a CTA identified 
lower lobe infiltrates, a small left pleural effusion, and a 
moderate-sized pericardial effusion. This is most commonly post 
viral but the possibility of a rheumatologic diagnosis was 
explored. Her repeat TTE showed very small pericardial effusion 
improved from prior. Pulsus was normal and there was no 
tamponade physiology. Respiratory viral panel was obtained and 
pending on discharge. She was seen by Cardiology and recommended 
to continue colchicine 0.6mg BID for 3 months. Cardiology 
recommended against ibuprofen because they do not think she has 
pericarditis, just an effusion. Ibuprofen is normally tapered 
off when a ___ stops having chest pain. As she is 
asymptomatic now, they recommend against ibuprofen.

#Fever
#Hx of elevated ___ completed two courses of antibiotics (Augmentin, 
levofloxacin) w/o resolution of symptoms. Constellation of 
symptoms (elevated ___ titer, lung infiltrates, pericardial 
effusion) could be reflective of developing rheumatologic 
disease. Reassuringly her rheumatologic ROS is almost completely 
negative except for some nonspecific migratory pains without 
physical exam findings. Despite her positive ___, she has no 
other symptoms to suggest a rheumatologic diagnosis (oral 
ulcers, inflammatory arthritis, Raynaud's, hematuria, alopecia, 
or photosensitive rash). Urine has been bland. She has no 
tightening/thickening of skin, dysphagia or Raynaud's to suggest 
systemic scleroderma. She has no sicca symptoms to suggest 
Sjogren's. She has no ILD or proximal motor weakness to suggest 
inflammatory myositis. Of note, there has been some lymphopenia 
on CBC, which should be followed. C3, C4, TSH were normal. 
dsDNA, RF negative. HIV negative.

#Mild transaminitis: Presented with ALT 140, AST 61, Alk Phos 
192, normal bili. Hepatitis serologies were ordered, pending on 
discharge.

CHRONIC ISSUES
===============
#HTN
- ___ was told to stop her amlodipine for now. Reassess need 
for BP lowering agent.

#Normocytic anemia
Previously noted in outpatient lab work, w/ Hgb ~ 11.5, elevated
ferritin. On admission, Hgb 10.7. It uptrended to her baseline 
11.5 on discharge.

TRANSITIONAL ISSUES:
==================
[] Continue colchicine 0.6mg BID for 3 months
[] ___ should follow up in ___ clinic for positive 
___ and lymphopenia.
[] Labs pending on discharge: respiratory viral panel, hepatitis 
serologies, CCP, CRP, repeat ___, adenovirus PCR

***Consider RUQUS to evaluate elevated LFTs and should repeat 
LFTs at next visit to look for improvement.

#CODE: Full (confirmed)
#CONTACT: ___ (husband) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID 
RX *colchicine 0.6 mg 1 capsule(s) by mouth twice a day Disp 
#*180 Capsule Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY  
3.  amLODIPine 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
pericardial effusion

SECONDARY DIAGNOSES
hypertension
positive ___

 
___ Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you were feeling 
short of breath  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- In the hospital an echocardiogram showed that the fluid 
surrounding your heart was better.
- You were given medications to reduce inflammation
- Your breathing improved

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___